US06831080B2
Preparation of (±)-5-{1-[3-(2,4-Difluorophenyl)acryloylamino]ethyl}-2,3-dihydroindole-1-carboxylic acid, methyl ester
A mixture of 2,4-difluorocinnamic acid (0.5 mmol), (±)-5-(1-aminoethyl)-2,3-dihydro-indole-1-carboxylic acid, methyl ester, Preparation 20 (132 mg, 0.6 mmole), EDC hydrochloride (192 mg, 1.0 mmole), DMAP (61 mg, 0.5 mmole), and triethylamine (202 mg, 2 mmole) in CH2Cl2 (8 mL) was stirred at room temperature for 16 hours. Water was added, the aqueous layer was extracted with dichloromethane, and the combined organic layers were washed with brine, dried over magnesium sulfate, and evaporated in vacuo. The crude product was purified by flash column chromatography on silica eluting with EtOAc/hexane (7:3) to give the title compound (125 mg) as a solid.

reactant | 2,4-difluorocinnamic acid | 0.5 mmol | FC1=C(C=CC(=O)O)C=CC(=C1)F | C9H6F2O2
reactant | (±)-5-(1-aminoethyl)-2,3-dihydro-indole-1-carboxylic acid, methyl ester | NC(C)C=1C=C2CCN(C2=CC1)C(=O)OC | C12H16N2O2
reactant | EDC hydrochloride | 1.0 mmole, 192 mg | CCN=C=NCCCN(C)C.Cl
reactant | triethylamine | 2 mmole, 202 mg | C(C)N(CC)CC | C6H15N
catalyst | DMAP | 0.5 mmole, 61 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 8 mL | C(Cl)Cl | CH2Cl2
solvent | Water | O | H2O
product | (±)-5-{1-[3-(2,4-Difluorophenyl)acryloylamino]ethyl}-2,3-dihydroindole-1-carboxylic acid, methyl ester | 125 mg | FC1=C(C=CC(=C1)F)C=CC(=O)NC(C)C=1C=C2CCN(C2=CC1)C(=O)OC | C21H20F2N2O3
